US07572459B2
5-Benzyloxycarboxyamino-1,3-bis(diethylphosphono)benzene
To a solution of 5-benzyloxycarboxyamino-1,3-bis(trifluoromethylsulphonyloxy)benzene (5 g, 9.78 mmole) in anhydrous acetonitrile(320 ml) under argon was added diethyl phosphite (5.9 g, 42.7 mmole), triethylamine (5.95 g, 58.9 mmole) and tetrakis(triphenylphosphine)palladium[0] (870 mg, 0.75 mmole) and the stirred mixture was heated to relux. The light yellow solution was refluxed for 3.5 hours then cooled and solvent removed in vacuo. The residue was partitioned between ethyl acetate and water and the organic layer washed with 1M hydrochloric acid, water and saturated sodium bicarbonate solution then dried over magnesium sulphate and evaporated. The residue was crystallised from ethyl acetate/petroleum ether bp 40°-60° C. to give white crystals

reactant | 5-benzyloxycarboxyamino-1,3-bis(trifluoromethylsulphonyloxy)benzene | 9.78 mmole, 5 g | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)OS(=O)(=O)C(F)(F)F)NC(=O)O)OS(=O)(=O)C(F)(F)F | C16H11F6NO9S2
reactant | diethyl phosphite | 42.7 mmole, 5.9 g | P(OCC)(OCC)[O-]
reactant | triethylamine | 58.9 mmole, 5.95 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 320 ml | C(C)#N | C2H3N
product | 5-Benzyloxycarboxyamino-1,3-bis(diethylphosphono)benzene | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)P(=O)(OCC)OCC)NC(=O)O)P(=O)(OCC)OCC | C22H31NO9P2
